US05066680
A solution of methyl benzoylformate (0.50 g) and 4-dimethylamino-2-butynylamine (0.38 g) in methanol (5 ml) was refluxed for 3 hours. To the reaction mixture was added 1N aqueous solution of sodium hydroxide and the mixture was extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel with a mixture of chloroform and methanol (20:1) as an eluent to give N-(4-dimethylamino-2-butynyl)benzoylformamide (0.39 g).

reactant | methyl benzoylformate | 0.50 g | C(C1=CC=CC=C1)(=O)C(=O)OC | C9H8O3
reactant | 4-dimethylamino-2-butynylamine | 0.38 g | CN(CC#CCN)C | C6H12N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | 5 ml | CO | CH4O
product | N-(4-dimethylamino-2-butynyl)benzoylformamide | 0.39 g | CN(CC#CCN(C=O)C(C1=CC=CC=C1)=O)C | C14H16N2O2
